US06376491B1
Preparation of {3-Methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethylene}-morpholin-4-yl-amine
To a solution of 3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-carbaldehyde (the compound of Example 115-b) (420 mg) in dichloromethane (50 ml) was added 4-aminomorpholine (380 mg) at room temperature. After stirring overnight, the mixture was washed with water (20 ml), NH4Cl solution (20 ml) and dried over anhydrous sodium sulfate. The mixture was purified by silica gel column chromatography developed by dichloromethane and methanol to give the title compound as a colorless oil (340 mg). ESI-MS: m/z 423 (MH+); 1H-NMR (CDCl3): δ 1.98-2.07 (2H, m), 2.23 (3H, s), 2.30 (3H, s), 2.59 (2H, t, J=6.9 Hz), 3.21-3.26 (4H, m), 3.53 (2H, s), 3.88-3.92 (4H, m), 4.10 (2H, t, J=5.9 Hz), 6.58 (1H, d, J=7.6 Hz), 7.03-7.15 (3H, m), 7.58-7.63 (2H, m), 8.40-8.51 (2H, m).

reactant | 3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-carbaldehyde | CC1=C(OC2=C1C(=CC=C2)OCCCN(CC=2C=NC=CC2)C)C=O | C20H22N2O3
reactant | 4-aminomorpholine | 380 mg | NN1CCOCC1 | C4H10N2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | {3-Methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethylene}-morpholin-4-yl-amine | 340 mg | CC1=C(OC2=C1C(=CC=C2)OCCCN(CC=2C=NC=CC2)C)C=NN2CCOCC2 | C24H30N4O3
